US04743607
D. Preparation of 1,3,4,5-tetrahydro-2H-imidazo[4,5-f]isoquinoline-2-one (Structure 1: Q=0, n=1)
Potassium cyanate (8.63 g, 0.106 mole) was added to a solution of 6-aminoisoquinolin-5-one (5.0 g, 0.0213 mole) in hydrochloric acid (pH=1) while maintaining the acidity constant by subsequent addition of concentrated hydrochloric acid. After stirring for about 11/2 hours, the product precipitated andwas obtained by filtration. Recrystallization from 50% aqueous ethanol gave 1.03 g (25%) of the desired product, m.p. >310° C.

reactant | Potassium cyanate | 0.106 mole, 8.63 g | [O-]C#N.[K+]
reactant | 6-aminoisoquinolin-5-one | 0.0213 mole, 5.0 g | NC1C(C=2C=CN=CC2C=C1)=O | C9H8N2O
solvent | hydrochloric acid | pH=1 | Cl | ClH
product | 1,3,4,5-tetrahydro-2H-imidazo[4,5-f]isoquinoline-2-one | 1.03 g, 25% | N1C(NC2=C1C=1C=CN=CC1CC2)=O | C10H9N3O
